US04034108
(b) Preparation of N-(1'-methoxycarbonyl-ethyl)-N-chloroacetyl-2,6-dimethylaniline
990.3 g (= 4.76 g-moles) of α-(2,6-dimethylanilino)-propionic acid methyl ester is mixed with 605 g (= 5.7 g-moles) of sodium carbonate in 2.5 liters of benzene (absolute). An amount of 455 ml (= 5.7 g-moles) of monochloroacetyl chloride is then added dropwise and sufficiently slowly to ensure that a temperature of 30°-35° in the reaction mixture is not exceeded. After stirring has been maintained overnight at room temperature, the mixture is filtered off, and the filtrate concentrated in a rotary evaporator at ca. 50°. The resulting residue is recrystallised from ligroin (boiling range 65°-90° ). The yield obtained is 1132 g (= 83.8% of theory) of final product, M.P. 92°-94° (compound No. 3).

reactant | α-(2,6-dimethylanilino)-propionic acid methyl ester | 990.3 g | COC(C(C)NC1=C(C=CC=C1C)C)=O | C12H17NO2
reactant | sodium carbonate | 605 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | monochloroacetyl chloride | 455 ml, 5.7 g | ClCC(=O)Cl | C2H2Cl2O
solvent | benzene | 2.5 liters | C1=CC=CC=C1 | C6H6
product | N-(1'-methoxycarbonyl-ethyl)-N-chloroacetyl-2,6-dimethylaniline | COC(=O)C(C)N(C1=C(C=CC=C1C)C)C(CCl)=O | C14H18ClNO3
